US07625888B2
Step B: 2-Methyl-5-(methylthio)-7,8-dihydro[1,2,4]triazolo[1,5-c]pyrimidine
A suspension of 505 mg (3 mmol) of 2-methyl-7,8-dihydro[1,2,4]triazolo[1,5-c]pyrimidine-5(6H)-thione in 12 mL of 50% sodium hydroxide (aqueous) was treated with 0.187 mL (426 mg, 3.3 mmol) of iodomethane. The mixture was stirred vigorously at room temperature in a stoppered flask. After 2 h, the mixture was partitioned between 25 mL of dichloromethane and 12 mL of water (CAUTION: exotherm upon addition of water). The organic phase was separated, and the aqueous phase was re-extracted with an additional 5 mL of dichloromethane. The combined organic fractions were dried over magnesium sulfate, filtered, and concentrated to dryness. The residue was flash chromatographed on silica gel (99:1 dichloromethane:methanol) to yield the title compound as white crystals, mp 75.5-76.5° C. LC-MS 183 (M+1).

reactant | 2-methyl-7,8-dihydro[1,2,4]triazolo[1,5-c]pyrimidine-5(6H)-thione | 3 mmol, 505 mg | CC1=NN2C(NCCC2=N1)=S | C6H8N4S
reactant | iodomethane | 3.3 mmol, 0.187 mL, 426 mg | IC | CH3I
solvent | sodium hydroxide | 12 mL | [OH-].[Na+]
product | 2-Methyl-5-(methylthio)-7,8-dihydro[1,2,4]triazolo[1,5-c]pyrimidine | CC1=NN2C(=NCCC2=N1)SC | C7H10N4S
